US20010018525A1
Step 1 N-Dodecyl-3-bromo-4-(2-bromoethoxy)-5-(3-methoxyphenyl)benzamide
To a flamed dried flask was added triphenylphosphine (98 mg, 0.373 mmol) and 1.5 mL anhydrous THF. This was stirred until all the triphenylphosphine had dissolyed. Then CBr4 (123 mg, 0.373 mmol) was added. The reaction mixture was stirred for one-half hour at room temperature then it was cooled to °C. before N-dodecyl-3-bromo-4-(2-hydroxyethoxy)-5-(3-methoxyphenyl)benzamide (200 mg, 0.373 mmol) was added. The cooling bath was removed after the addition was complete. After the reaction mixture had warmed up to room temperature, 0.2 eq each of triphenylphosphine (19.6 mg, 0.075 mmol) and CBr4 (24.8 mg, 0.075 mmol) were added. The reaction was stirred for one-half hour then the solvent was removed under vacuum to give a yellow semisolid. This material was subjected to flash chromatography (25% EtOAc:75% Hexanes) to yield 150 mg, 67% of a yellow oil. 1H NMR (CDCl3) δ1.25 (t, J=8.13 Hz, 3H); 1.22-1.40 (m, 18H); 1.52-1.63 (m, 2H); 3.35 (t, J=8.18 Hz, 2H); 3.40 (q, J=6.54 Hz, 2H); 3.84-3.90 (m, 5H); 6.00 (m, 1H); 6.93 (dd, J=8.18 Hz, 2.45 Hz, 1H); 7.07-7.11 (m, 2H); 7.35 (t, J=8.18 Hz, 1H); 7.65 (d, J=2.45 Hz, 1H); 7.93 (d, J=2.45 Hz, 1H).

reactant | triphenylphosphine | 0.373 mmol, 98 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | THF | 1.5 mL | C1CCOC1 | C4H8O
reactant | CBr4 | 0.373 mmol, 123 mg | C(Br)(Br)(Br)Br | CBr4
reactant | N-dodecyl-3-bromo-4-(2-hydroxyethoxy)-5-(3-methoxyphenyl)benzamide | 0.373 mmol, 200 mg | C(CCCCCCCCCCC)NC(C1=CC(=C(C(=C1)C1=CC(=CC=C1)OC)OCCO)Br)=O | C28H40BrNO4
reactant | triphenylphosphine | 0.075 mmol, 19.6 mg, 0.2 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | CBr4 | 0.075 mmol, 24.8 mg | C(Br)(Br)(Br)Br | CBr4
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-Dodecyl-3-bromo-4-(2-bromoethoxy)-5-(3-methoxyphenyl)benzamide | 150 mg, 67% | C(CCCCCCCCCCC)NC(C1=CC(=C(C(=C1)C1=CC(=CC=C1)OC)OCCBr)Br)=O | C28H39Br2NO3
